US06468998B1
2-Cyclopentylphenylacetic acid (0.39 g) and (S)-3-amino-1-(2-phenylethyl)pyrrolidine (0.3 g) were reacted under the same conditions as in Example 23 to give N-((S)-1-(2-phenylethyl)pyrrolidin-3-yl)-2-cyclopentylphenylacetamide (0.13 g), melting point 117-119° C.

reactant | 2-Cyclopentylphenylacetic acid | 0.39 g | C1(CCCC1)C1=C(C=CC=C1)CC(=O)O | C13H16O2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | 0.3 g | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | N-((S)-1-(2-phenylethyl)pyrrolidin-3-yl)-2-cyclopentylphenylacetamide | 0.13 g | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(CC1=C(C=CC=C1)C1CCCC1)=O | C25H32N2O
